US03969373
A solution of 3.23 g of 2-(4-carboxyphenyl)-1-dimethylamino-4-phenyl-1-butene-3,4-dione in 100 ml of 2% potassium hydroxide solution was stirred at room temperature for 5 hrs. The reaction mixture was poured onto 300 ml of ice-water and acidified with 100 ml of 1N hydrochloric acid. The precipitate was collected, washed with water and then dissolved in 300 ml of ether. The solution was dried over anhydrous sodium sulfate. The drying agent was collected and the filtrate was evaporated. Recrystallization from ether gave 2.12 g (71%) of 2-hydroxy-2-phenyl-4-(4-carboxyphenyl)-3(2H)-furanone, m.p. 294°-299°C. dec.

reactant | 2-(4-carboxyphenyl)-1-dimethylamino-4-phenyl-1-butene-3,4-dione | 3.23 g | C(=O)(O)C1=CC=C(C=C1)C(=CN(C)C)C(C(=O)C1=CC=CC=C1)=O | C19H17NO4
reactant | hydrochloric acid | 1N, 100 ml | Cl | ClH
reactant | potassium hydroxide | 100 ml | [OH-].[K+]
product | 2-hydroxy-2-phenyl-4-(4-carboxyphenyl)-3(2H)-furanone | 2.12 g, 71% | OC1(OC=C(C1=O)C1=CC=C(C=C1)C(=O)O)C1=CC=CC=C1 | C17H12O5
